US09085583B2
Step 3: N-((4-methoxy-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1-(1-(3-(methylcarbamoyl)phenyl)ethyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxamide (Compound 263)
Methyl 3-(1-(3-(((4-methoxy-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamoyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl)benzoate (20 mg, 0.041 mmol) was added to 30% methylamine ethanol solution (10 mL). The mixture was stirred under 50 Psi at 100° C. for 12 hours in a 100 mL of sealed tube. The solvent was evaporated and the residue was purified by preparative-HPLC (Instrument: Gilson GX281 Column: ASB C18 150*25 mm*5 um Mobile phase A: water with 0.05% ammonia solution Mobile phase B: MeCN Column temperature: 30° C. Gradient: 17-47% B 15 min) to afford the title compound (17.4 mg, yield: 30%). LRMS (M+H+) m/z: calcd 488.22. found 488.0. 1H NMR (400 MHz, chloroform-d) δ ppm 2.01 (d, J=7.28 Hz, 3 H) 2.26 (s, 3 H) 2.50 (s, 3 H) 2.96 (d, J=4.63 Hz, 3 H) 3.91 (s, 3 H) 4.64 (d, J=5.51 Hz, 2 H) 5.95 (s, 1 H) 6.14 (br. S., 1 H) 6.55 (d, J=8.16 Hz, 1 H) 7.05-7.13 (m, 1 H) 7.33 (t, J=8.05 Hz, 1 H) 7.51-7.59 (m, 1 H) 7.60-7.64 (m, 1 H) 8.24 (d, J=5.51 Hz, 2 H).

reactant | Methyl 3-(1-(3-(((4-methoxy-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamoyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl)benzoate | 0.041 mmol, 20 mg | COC1=C(C(NC(=C1)C)=O)CNC(=O)C1=C(N(C2=NC=CC=C21)C(C)C=2C=C(C(=O)OC)C=CC2)C | C27H28N4O5
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
reactant | methylamine ethanol | 10 mL | C(C)O.CN
product | N-((4-methoxy-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-2-methyl-1-(1-(3-(methylcarbamoyl)phenyl)ethyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxamide | 17.4 mg, yield: 30% | COC1=C(C(NC(=C1)C)=O)CNC(=O)C1=C(N(C2=NC=CC=C21)C(C)C2=CC(=CC=C2)C(NC)=O)C | C27H29N5O4
